US05302605
0.85 g of a 55% sodium hydride dispersion in mineral oil is added in portions to a solution of 2.7 g of 2-nitroimino-imidazolidine in 70 ml of acetonitrile. The mixture is stirred for 1.5 hours under a nitrogen atmosphere, and then 3.72 g of 2-chloro-5-chloromethyl-pyridine-N-oxide are added in portions. The reaction mixture is stirred at room temperature for 16 hours and then filtered. The crude product is crystallised out by cooling the filtrate to 0° C. The product is separated off and washed with diethyl ether, yielding pure 2-chloro-5-(2-nitroimino-imidazolidin-1-yl-methyl)-pyridine-N-oxide, m.p. 200° C. (with decomposition).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-nitroimino-imidazolidine | 2.7 g | [N+](=O)([O-])N=C1NCCN1 | C3H6N4O2
reactant | 2-chloro-5-chloromethyl-pyridine-N-oxide | 3.72 g | ClC1=[N+](C=C(C=C1)CCl)[O-] | C6H5Cl2NO
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 2-chloro-5-(2-nitroimino-imidazolidin-1-yl-methyl)-pyridine-N-oxide | ClC1=[N+](C=C(C=C1)CN1C(NCC1)=N[N+](=O)[O-])[O-] | C9H10ClN5O3
